US06194458B1
Step 2 (R)-(−)-2-phenylbutyl amine
To a solution of 4.7 gm of (R)-(−)-2-phenylbutanol (31.78 mmol) and 7.6 mL of pyridine (95 mmol) in 40 mL of CH2Cl2 was added 10 gm of methanesulfonic anhydride (64 mmol). After stirring at room temperature for 5 hr, 100 mL of water was added and the mixture was extracted 3 times with ether. The combined organic fractions were washed with 1N HCl, sat. NaHCO3 and sat. NaCl solutions. The organic fractions were dried over MgSO4, filtered through a thin layer of silica and concentrated in vacuo. The methanesulfonate was used without further purification. 1H NMR (CDCl3) δ 0.85 (t, 3H), 1.65 (m, 2H), 1.85 (m, 2H), 2.75 (s, 3H), 2.9 (m, 1H), 4.35 (d, 2H), 7.3 (m, 5H). A solution of the methanesulfonate, 10 gm of sodium azide (154 mmol) and a trace amount of sodium iodide in 50 mL of DMF was stirred at 80° C. for 12 hr. The reaction mixture was then cooled and 200 mL of ether was added. The mixture was washed 3 times with water, then with sat. NaCl solution, dried over MgSO4, filtered and concentrated. To a solution of the azide in 20 mL of THF was added 50 mL of a 1M solution of LAH in THF and the reaction mixture was stirred at room temperature. After 2 hours, the reaction was quenched with successive additions of 5 mL of water, 5 mL of 10% KOH and 5 mL of water. The aluminum salts were removed by filtration and washed with 200 mL of ethylacetate. The filtrate was dried over MgSO4, filtered and concentrated. The residue was purified by vacuum distillation in a Kugelrohr apparatus (bp 145° C., 0.2 Torr) to give the title compound as a clear liquid.

reactant | (R)-(−)-2-phenylbutanol | 31.78 mmol, 4.7 gm | C1(=CC=CC=C1)[C@H](CO)CC | C10H14O
reactant | pyridine | 95 mmol, 7.6 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 64 mmol, 10 gm | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | sodium azide | 154 mmol, 10 gm | [N-]=[N+]=[N-].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | (R)-(−)-2-phenylbutyl amine | C1(=CC=CC=C1)[C@H](CN)CC | C10H15N
